US08067445B2
Step 2: (2′-{[Acetyl-((1R,2S)-2-hydroxy-indan-1-yl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: {2′-[((1R,2S)-2-hydroxy-indan-1-ylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and acetyl chloride.

reactant | {2′-[((1R,2S)-2-hydroxy-indan-1-ylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN[C@H]1[C@H](CC2=CC=CC=C12)O)=O | C27H26F3NO4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (2′-{[Acetyl-((1R,2S)-2-hydroxy-indan-1-yl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN([C@H]1[C@H](CC2=CC=CC=C12)O)C(C)=O)=O | C29H28F3NO5
